US04584293
(a) 2-[N-Methyl-N-(2-cyano-ethyl)-amino]-7-methoxy-1,2,3,4-tetrahydronaphthalene
First, 7-methoxy-2-methylamino-1,2,3,4-tetrahydronaphthalene (5.76 g, 0.0253 mol) is dissolved in methanol (100 ml) with stirring. Acrylonitrile (2.07 ml, 0.0316 mol) is added and the mixture is heated for 3 hours to 50°-55° C. Then the solvent is distilled off. Yield: 6.2 g. Rf value: 0.75 (alumina, eluant: methylene chloride).

reactant | 7-methoxy-2-methylamino-1,2,3,4-tetrahydronaphthalene | 0.0253 mol, 5.76 g | COC1=CC=C2CCC(CC2=C1)NC | C12H17NO
reactant | Acrylonitrile | 0.0316 mol, 2.07 ml | C(C=C)#N | C3H3N
solvent | methanol | 100 ml | CO | CH4O
product | 2-[N-Methyl-N-(2-cyano-ethyl)-amino]-7-methoxy-1,2,3,4-tetrahydronaphthalene | CN(CCC#N)C1CC2=CC(=CC=C2CC1)OC | C15H20N2O
